US07632840B2
1-{4-[(3-Chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}ethanone was reduced with sodium borohydride using an analogous procedure to that described for the equivalent step in Example 62 to give 1-{4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}ethanol; 1H NMR Spectrum: (DMSO d6) 1.38 (d, 3H); 3.95 (s, 3H); 5.12 (m, 1H); 5.28 (d, 1H); 7.16 (s, 1H); 7.24 (t, 1H); 7.45 (m, 2H); 8.39 (s, 1H); 8.48 (s, 1H); 9.93 (s, 1H). Mass Spectrum: (M+H)+ 348.

reactant | 1-{4-[(3-Chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}ethanone | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)C(C)=O)OC)F | C17H13ClFN3O2
reactant | sodium borohydride | [BH4-].[Na+]
product | 1-{4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}ethanol | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)C(C)O)OC)F | C17H15ClFN3O2
